** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/photodiode_test_structure.sch
.subckt photodiode_test_structure_schem vdda1 dac_config_8 dac_config_7 vpd_out vssa1
*.PININFO vssa1:B vdda1:B dac_config_8:B dac_config_7:B vpd_out:B
XMpd vdda1 dac_config_8 vpd vssa1 sky130_fd_pr__nfet_01v8 L=0.3 W=0.5 nf=1
DD1 vssa1 vpd sky130_fd_pr__model__parasitic__diode_ps2dn area=1e12 perim=4e6
x2 vdda1 dac_config_7 vpd vpd_out vssa1 infiniamp_xl_layout
.ends

* expanding   symbol:  infiniamp_xl_layout.sym # of pins=5
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/infiniamp_xl_layout.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/infiniamp_xl_layout.sch
.subckt infiniamp_xl_layout VDD VBIAS VIN VOUT GndA
*.PININFO VDD:B GndA:B VIN:I VBIAS:B VOUT:B
XMpAuxBias AUX_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1 nf=1 m=4
XMpSrcBias MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1 nf=1 m=16
XMP_MSRC_VIN_M1 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_MSRC_VOUT_M1 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMnDiodeLD DIODE_LD DIODE_LD GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=2
XMnMainBias MAIN_BIAS MAIN_BIAS GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=2
XMnNVin N_VIN MAIN_BIAS GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=8
XMnVout VOUT MAIN_BIAS GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=8
XMP_MSRC_VIN_M2 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_MSRC_VOUT_M2 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_NVIN_M2 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_VOUT_M2 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_NVIN_M1 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_VOUT_M1 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMnDiodeLD1 GndA GndA GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1
XMnDiodeLD2 GndA GndA GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1
.ends

